US05486531
a) 4-Hydroxy-N-isopropyl-2,3-dioximinobutyramide
9.4 g of 3,4-dioximino-2-oxotetrahydrofuran are suspended in 50 ml of methanol, and 4.2 g of isopropylamine are added. The mixture is stirred for 3 h and then cooled in an ice bath. The solid material is filtered off with suction and recrystallized from methanol.

reactant | 3,4-dioximino-2-oxotetrahydrofuran | 9.4 g | N(O)=C1C(OCC1=NO)=O | C4H4N2O4
reactant | isopropylamine | 4.2 g | C(C)(C)N | C3H9N
solvent | methanol | 50 ml | CO | CH4O
product | 4-Hydroxy-N-isopropyl-2,3-dioximinobutyramide | OCC(C(C(=O)NC(C)C)=NO)=NO | C7H13N3O4
